US08138183B2
4-[4-[2-(benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline
Sodium carbonate (2M aqueous solution) (3.21 mL, 6.43 mmol) was added to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (391 mg, 1.79 mmol) and 4-[2-(benzenesulfonyl)propan-2-yl]-2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (707 mg, 1.79 mmol) in a mixture of DME (8.0 mL), ethanol (4.0 mL), DMF (4.0 mL) and water (4.0 mL) under nitrogen. The mixture was degassed and purged with nitrogen three times. Bis(triphenylphosphine)palladium(II) chloride (63 mg, 0.09 mmol) was added and the mixture was degassed and purged with nitrogen a further three times. The resulting suspension was stirred at 80° C. for 30 minutes. The reaction mixture was concentrated and diluted with ethyl acetate (50 mL), and washed sequentially with water (2×25 mL) and saturated brine (25 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 2% methanol in DCM, to give the desired material as a beige solid (578 mg).

reactant | Sodium carbonate | 6.43 mmol, 2M, 3.21 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.79 mmol, 391 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 4-[2-(benzenesulfonyl)propan-2-yl]-2-chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 1.79 mmol, 707 mg | C1(=CC=CC=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)Cl | C18H22ClN3O3S
reactant | ethanol | 4.0 mL | C(C)O | C2H6O
solvent | DME | 8.0 mL | COCCOC | C4H10O2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.09 mmol, 63 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 4.0 mL | O | H2O
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 4-[4-[2-(benzenesulfonyl)propan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 578 mg | C1(=CC=CC=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H28N4O3S
